US04533739
2-[(2-Methyl-3-aminophenyl)amino]-1-pyrroline, dihydrochloride
The title compound (20.9 g) was prepared by the methods of Examples 8 and 9 using 2-chloro-1-pyrroline, prepared as in Example 1, and 30.0 g of 2-methyl-3-nitroaniline. Structure assignment was supported by the nmr spectrum and by elemental analysis.

reactant | 2-chloro-1-pyrroline | ClC1=NCCC1 | C4H6ClN
reactant | 2-methyl-3-nitroaniline | 30.0 g | CC1=C(N)C=CC=C1[N+](=O)[O-] | C7H8N2O2
product | 2-[(2-Methyl-3-aminophenyl)amino]-1-pyrroline, dihydrochloride | 20.9 g | Cl.Cl.CC1=C(C=CC=C1N)NC1=NCCC1 | InChI=1S/C11H15N3.2ClH/c1-8-9(12)4-2-5-10(8)14-11-6-3-7-13-11;;/h2,4-5H,3,6-7,12H2,1H3,(H,13,14);2*1H
